US07612212B2
To a solution of 4,4,4,4′,4′,4′-hexafluoro-DL-valine (1.0 g, 4.4 mmol) and sodium carbonate (933 mg, 8.8 mmol) in dioxane (10 mL) and water (10 mL) at 0° C. was slowly added di-tert-butyidicarbonate. After addition, the mixture was stirred for 12 hours at room temperature. The reaction mixture was partitioned between water and ethyl acetate and the organic layer was discarded. The organic layer was adjusted to pH >4 with 1 M aqueous citric acid solution, washed with brine, dried over sodium sulfate and concentrated to give 2-tert-butoxycarbonyl-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid as a yellow solid (1.34 g, 96%).

reactant | 4,4,4,4′,4′,4′-hexafluoro-DL-valine | 4.4 mmol, 1.0 g | FC(C(C(N)C(=O)O)C(F)(F)F)(F)F | C5H5F6NO2
reactant | sodium carbonate | 8.8 mmol, 933 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyidicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 2-tert-butoxycarbonyl-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid | 1.34 g, 96% | C(C)(C)(C)OC(=O)C(C(=O)O)(C(C(F)(F)F)C(F)(F)F)N | C10H13F6NO4
